US06605629B1
Ethyl 6-(4-fluorophenyl)-6-oxohexanoate (14.0 g) was dissolved in methylene chloride (100 ml), and bromine (8.87 g) was added dropwise with stirring at room temperature. After an hour of stirring at room temperature, a 10% aqueous solution of sodium sulfite was carefully added until disappearance of the red color of bromine, and the mixture was then extracted with diethyl ether (100 ml×2). The organic layer was washed with a 10% aqueous solution of sodium hydrogen carbonate (100 ml), dried over anhydrous magnesium sulfate, and concentrated to give ethyl 5-bromo-6-(4-fluorophenyl)-6-oxohexanoate as an oil (17.6 g, quantitative).

reactant | Ethyl 6-(4-fluorophenyl)-6-oxohexanoate | 14.0 g | FC1=CC=C(C=C1)C(CCCCC(=O)OCC)=O | C14H17FO3
reactant | bromine | 8.87 g | BrBr | Br2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | ethyl 5-bromo-6-(4-fluorophenyl)-6-oxohexanoate | BrC(CCCC(=O)OCC)C(=O)C1=CC=C(C=C1)F | C14H16BrFO3
